US07482455B2
2-(2-Chloro-phenylamino)-7-methoxy-quinoline-3-carboxylic acid phenylamide (404 mg, 1.0 mmol) was dissolved in dry CH2Cl2 (5 ml). After cooling to −78° C., 1.0 N BBr3 (5.0 ml, 5.0 mmol) in CH2Cl2 was dropped into the above solution over 5 min. The reaction mixture was allowed to warm to room temperature over 1 hr and stirred for 5 days. CH2Cl2 was added to extract the reaction mixture, and washed with water, saturated brine and then dried with magnesium sulfate. After evaporating the solvent under reduced pressure, the residue was purified by chromatography on SCX column using MeOH as eluent. At last, 2-(2-Chloro-phenylamino)-7-hydroxy-quinoline-3-carboxylic acid phenylamide was obtained as yellow solid after recrystallization from CH2Cl2 and Hexane; 210 mg (54%).

reactant | 2-(2-Chloro-phenylamino)-7-methoxy-quinoline-3-carboxylic acid phenylamide | 1.0 mmol, 404 mg | C1(=CC=CC=C1)NC(=O)C=1C(=NC2=CC(=CC=C2C1)OC)NC1=C(C=CC=C1)Cl | C23H18ClN3O2
reactant | BBr3 | 5.0 mmol, 1.0 N, 5.0 ml | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-Chloro-phenylamino)-7-hydroxy-quinoline-3-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)C=1C(=NC2=CC(=CC=C2C1)O)NC1=C(C=CC=C1)Cl | C22H16ClN3O2
